US08067445B2
Step 1: (3-Bromo-5-chloro-phenyl)-acetic acid methyl ester
To a solution of (3-bromo-5-chloro-phenyl)-acetic acid (0.400 g, 1.60 mmol) in MeOH (15 mL) was added 4N aqueous HCl (2 mL), and the reaction was stirred at 90° C. for 2 hours. The mixture was concentrated and purified by silica gel chromatography (0-5% EtOAc in hexanes) to give the title compound.

reactant | (3-bromo-5-chloro-phenyl)-acetic acid | 1.60 mmol, 0.400 g | BrC=1C=C(C=C(C1)Cl)CC(=O)O | C8H6BrClO2
reactant | HCl | 4N, 2 mL | Cl | ClH
reactant | MeOH | 15 mL | CO | CH4O
product | (3-Bromo-5-chloro-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)Br)=O | C9H8BrClO2
